US09428510B2
30 ml of ammonia in water is added under magnetic stirring to 15 g (53.8 mmol) of a solution of methyl 3-amino-6-iodopyrazine-2-carboxylate in 150 ml of methanol. The reaction medium is stirred at 25° C. for 48 hours. After evaporation of the solvents, the precipitate obtained is filtered, rinsed with water and then dried at 50° C. to yield 12.50 g of 3-amino-6-iodopyrazine-2-carboxamide (88%) in the form of a beige solid.

reactant | ammonia | 30 ml | N | H3N
reactant | methyl 3-amino-6-iodopyrazine-2-carboxylate | NC=1C(=NC(=CN1)I)C(=O)OC | C6H6IN3O2
solvent | water | O | H2O
solvent | methanol | 150 ml | CO | CH4O
product | 3-amino-6-iodopyrazine-2-carboxamide | 12.50 g, 88% | NC=1C(=NC(=CN1)I)C(=O)N | C5H5IN4O
